US04289763
A solution of 2.0 g of 6α-chloro-11β,21-dihydroxy-16α-methyl-1,4-pregnadiene-3,20-dione in 20 ml of 1,2-dichloroethane is combined with 5.2 ml of pivalic anhydride as well as 2.0 g of sodium hydroxide in 12 ml of water and vigorously agitated for 90 minutes. Then the mixture is diluted with dichloromethane, the organic phase is separated, washed with water, dried over sodium sulfate, and concentrated under vacuum. The residue is chromatographed on silica gel; with 50% ethyl acetate-hexane, after recrystallization from acetone-diisopropyl ether, 672 mg of 6α-chloro-11β-hydroxy-16α-methyl-21-trimethylacetoxy-1,4-pregnadiene-3,20-dione is obtained, m.p. 189° C. [α]D25 =+78° (chloroform).

reactant | 6α-chloro-11β,21-dihydroxy-16α-methyl-1,4-pregnadiene-3,20-dione | 2.0 g | Cl[C@H]1C[C@H]2[C@@H]3C[C@H]([C@H](C(CO)=O)[C@]3(C[C@@H]([C@@H]2[C@]2(C=CC(C=C12)=O)C)O)C)C | C22H29ClO4
reactant | pivalic anhydride | 5.2 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | sodium hydroxide | 2.0 g | [OH-].[Na+]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | water | 12 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6α-chloro-11β-hydroxy-16α-methyl-21-trimethylacetoxy-1,4-pregnadiene-3,20-dione | 672 mg | Cl[C@H]1C[C@H]2[C@@H]3C[C@H]([C@H](C(COC(C(C)(C)C)=O)=O)[C@]3(C[C@@H]([C@@H]2[C@]2(C=CC(C=C12)=O)C)O)C)C | C27H37ClO5
